US05733922
Initially, 2.94 g of 3-dimethylaminobenzylchloride hydrochloride was added to a mixture of 1.6 g of 5,5-dimethyl-2,4-dithiohydantoin and 1.3 g of sodium methoxide in 50 mL of methanol (MeOH). The reaction mixture was stirred at the room temperature for one hour, and concentrated in vacuo. The residue was treated following the procedure used in Example 56, and chromatographed on a column of silica gel (CHCl3). From the earlier fractions, 2,4-bis(3-dimethylaminobenzylthio)-5,5-dimethyl-5H-imidazole was isolated, in the form of a syrup. The yield of this compound was 0.31 g with a yield ratio of 7.4%.

reactant | 3-dimethylaminobenzylchloride hydrochloride | 2.94 g | Cl.CN(C=1C=C(CCl)C=CC1)C
reactant | 5,5-dimethyl-2,4-dithiohydantoin | 1.6 g | CC1(C(NC(N1)=S)=S)C | C5H8N2S2
reactant | sodium methoxide | 1.3 g | C[O-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 2,4-bis(3-dimethylaminobenzylthio)-5,5-dimethyl-5H-imidazole | CN(C=1C=C(CSC2=NC(C(=N2)SCC2=CC(=CC=C2)N(C)C)(C)C)C=CC1)C | C23H30N4S2
